US08377874B2
Step 7: (2S)-2-({[(2,2-Dimethylpent-4-en-1-yl)(methyl)amino]carbonyl}amino)non-8-enoic acid
LiOH (66 mmol) was added to a solution of ethyl (2S)-2-({[(2,2-dimethylpent-4-en-1-yl)(methyl)amino]carbonyl}amino)non-8-enoate (2.35 g, 6.67 mmol) in MeOH (20 mL), water (10 mL) and THF (30 mL). The reaction mixture was stirred for 3 hours at RT and then concentrated. A solution 5% potassium bisulfate was added, and the mixture was extracted with EtOAc (3×). The combined organic were washed with brine, dried over MgSO4, filtered and concentrated to give the title compound. LRMS (M+H)+=325.3.

reactant | LiOH | 66 mmol | [Li+].[OH-]
reactant | ethyl (2S)-2-({[(2,2-dimethylpent-4-en-1-yl)(methyl)amino]carbonyl}amino)non-8-enoate | 6.67 mmol, 2.35 g | CC(CN(C(=O)N[C@H](C(=O)OCC)CCCCCC=C)C)(CC=C)C | C20H36N2O3
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2S)-2-({[(2,2-Dimethylpent-4-en-1-yl)(methyl)amino]carbonyl}amino)non-8-enoic acid | CC(CN(C(=O)N[C@H](C(=O)O)CCCCCC=C)C)(CC=C)C | C18H32N2O3
